US06310211B1
5-Chloro-8-hydroxy-N-(3-phenylpropyl)-7-quinolinesulfonamide monohydrobromide (Formula J-5 wherein R1=H, X1=Cl, and R2=(CH2)3C6H5) Refer to Chart J
The title compound is prepared from 5-chloro-8-methoxy-N-(3-phenylpropyl)-7-quinolinesulfonamide, which is the title compound of Preparation 11, and 6 equivalents of BBr3 according to the procedure described in Example 18. Crystallization from CHCl3/acetone/EtOH affords 0.063 g of the title compound as a red-brown solid.

reactant | 5-chloro-8-methoxy-N-(3-phenylpropyl)-7-quinolinesulfonamide | ClC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)NCCCC1=CC=CC=C1)OC | C19H19ClN2O3S
reactant | BBr3 | 6 equivalents | B(Br)(Br)Br | BBr3
product | 5-Chloro-8-hydroxy-N-(3-phenylpropyl)-7-quinolinesulfonamide monohydrobromide | 0.063 g | Br.ClC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)NCCCC1=CC=CC=C1)O | InChI=1S/C18H17ClN2O3S.BrH/c19-15-12-16(18(22)17-14(15)9-5-10-20-17)25(23,24)21-11-4-8-13-6-2-1-3-7-13;/h1-3,5-7,9-10,12,21-22H,4,8,11H2;1H
